US07196091B2
(S)-4-[(3-chloro-4-fluoro-phenyl)amino]-6-[2-(6-methyl-2-oxo-morpholin-4-yl)ethyloxy]-7-methoxy-quinazoline
425 g of (S)-4-[(3-chloro-4-fluoro-phenyl)amino]-6-{2-[(2-hydroxypropyl)amino]ethyloxy}-7-methoxy-quinazoline and 210 ml N-ethyl-diisopropylamine are dissolved in 640 ml N-methylpyrrolidone. After the addition of 105 ml methyl bromoacetate the mixture is stirred for 1 hour at 20–25° C. After the addition of 8500 ml n-butyl acetate and 4300 ml of water the phases are separated and the organic phase is washed with 4300 ml of water. The organic phase is evaporated down at 200 mbar to 50% of the original volume and 4300 ml of n-butyl acetate are added. The mixture is heated to 120–130° C. for 40 hours, filtered and evaporated down to a volume of 2000 ml at 200 mbar. After cooling to −10° C. the precipitate is suction filtered, washed with 800 ml n-butyl acetate and dried at 50° C. The crude product is recrystallised twice from methylethylketone (3750 and 5100 ml).

reactant | (S)-4-[(3-chloro-4-fluoro-phenyl)amino]-6-{2-[(2-hydroxypropyl)amino]ethyloxy}-7-methoxy-quinazoline | 425 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OCCNC[C@H](C)O)OC | C20H22ClFN4O3
reactant | N-ethyl-diisopropylamine | 210 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl bromoacetate | 105 ml | BrCC(=O)OC | C3H5BrO2
reactant | n-butyl acetate | 8500 ml | C(C)(=O)OCCCC | C6H12O2
solvent | N-methylpyrrolidone | 640 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 4300 ml | O | H2O
product | (S)-4-[(3-chloro-4-fluoro-phenyl)amino]-6-[2-(6-methyl-2-oxo-morpholin-4-yl)ethyloxy]-7-methoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OCCN1CC(O[C@H](C1)C)=O)OC | C22H22ClFN4O4
